US08133995B2
Step 2: Preparation of 1-amino-1H-pyrrole-2,4-dicarbonitrile
To a solution of DMF (100 mL) was added 1H-pyrrole-2,4-dicarbonitrile (1.00 g, 8.54 mmol) followed by NaH, 60% dispersion in mineral oil (0.51 g, 12.8 mmol). The solution was stirred at rt for 15 min and then (aminooxy)(diphenyl)phosphine oxide (2.99 g, 12.8 mmol) was added, and the solution was heated to 80° C. for 2 h. Upon cooling to rt the solution was filtered washing with CH2Cl2. The solution was partially concentrated and a white precipitate formed which was filtered. The mother liquor was then evaporated under vacuum and subsequently purified by MPLC (Isco) 100% CH2Cl2 ramping to 9:1 v/v CH2Cl2-EtOAc. The resulting purified fractions were combined and concentrated in vacuo yielding 0.92 g of a white solid (6.98 mmol, yield 82%). 1H-NMR (DMSO-d6) 7.92 (d, J=1.8 Hz, 1H), 7.39 (d, J=1.9 Hz, 1H), 6.66 (s, 2H); MS [M+H]+=133.0; LCMS RT=0.96 min.

reactant | 1H-pyrrole-2,4-dicarbonitrile | 8.54 mmol, 1.00 g | N1C(=CC(=C1)C#N)C#N | C6H3N3
reactant | NaH | [H-].[Na+]
reactant | (aminooxy)(diphenyl)phosphine oxide | 12.8 mmol, 2.99 g | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-amino-1H-pyrrole-2,4-dicarbonitrile | 6.98 mmol, 0.92 g, yield 82% | NN1C(=CC(=C1)C#N)C#N | C6H4N4
